US07723392B2
Samples of ractopamine can be isolated and purified from conveniently available commercial sources. One kilogram of commercially available Paylean® (Elanco) was stirred overnight with 15 L of water. The mass was filtrated, and the filtrate (11.5 L) was evaporated under reduced pressure to a small volume (ca. 1-2 L). Aqueous potassium carbonate was added to raise pH to ca. 10, and the solution was extracted twice with equal volumes of ethyl acetate. The ethyl acetate extracts were combined, evaporated under reduced pressure to ca. 0.5 L, and an equal volume of hexanes added. After standing overnight, crystals of ractopamine free base (6.83 g) were filtrated. This material was crystallized again from ethyl acetate/hexanes to give pure ractopamine free base (6.01 g). HPLC showed 98.5% purity. A sample of ractopamine free base (120 mg) was stirred with 10 ml of deionized water cooled in an ice-water bath, and 2 M aqueous hydrochloric acid (2 ml) was added slowly. After stirring to dissolve the material, the solution was filtered and lyophilised to give ractopamine hydrochloride (125 mg). The mp was 128-135° C., lit (Merck Index) mp 124-129° C. 1H NMR was consistent. HPLC showed 98.0% chemical purity.

reactant | ractopamine | 120 mg | CC(CCC=1C=CC(=CC1)O)NCC(C=2C=CC(=CC2)O)O | C18H23NO3
reactant | hydrochloric acid | 2 M, 2 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | ractopamine hydrochloride | 125 mg | CC(CCC=1C=CC(=CC1)O)NCC(C=2C=CC(=CC2)O)O.Cl | InChI=1S/C18H23NO3.ClH/c1-13(2-3-14-4-8-16(20)9-5-14)19-12-18(22)15-6-10-17(21)11-7-15;/h4-11,13,18-22H,2-3,12H2,1H3;1H
